US09290490B2
N-(3-{2-[(2,2-Dimethyl-4-oxocyclohexyl)carbonyl]-1,3-thiazol-5-yl}-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-aminium trifluoroacetate (100 mg, 0.166 mmol) was dissolved in methanol (1.66 mL) and cooled to 0° C. Sodium borohydride (18.8 mg, 0.498 mmol) was added to the reaction, and the resultant mixture was aged at 0° C. for 30 minutes. The reaction was quenched with water and extracted with EtOAc (3×). The combined organic layers were concentrated in vacuo and purified via silica gel column chromatography to provide 4-{hydroxy[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methyl}-3,3-dimethylcyclohexanol. MS ESI calc'd. for C24H28F3N4O2S [M+H]+ 493. found 493. Mixture present as a ˜4:1 mixture of diastereomers. 1H NMR data reported as the observed integrals for each peak. 1H NMR (500 MHz, CDCl3) δ 8.62 (d, J=4.9, 1H), 7.77 (m, 2H), 7.62 (m, 1H), 7.28 (m, 1H), 7.04-7.00 (m, 2H), 5.07 (d, J=7.2, 0.8H), 4.94 (d, J=7.2, 0.2H), 3.98-3.91 (m, 0.8H), 3.72-3.64 (m, 0.2H), 2.34 (m, 3H), 1.77-1.20 (m, 6H), 1.21 (s, 0.6H), 1.16 (s, 2.4H), 1.12 (s, 2.4H), 0.95 (s, 0.6H). rhSyk activity=+++.

reactant | N-(3-{2-[(2,2-Dimethyl-4-oxocyclohexyl)carbonyl]-1,3-thiazol-5-yl}-5-methylphenyl)-4-(trifluoromethyl)pyrimidin-2-aminium trifluoroacetate | 0.166 mmol, 100 mg | FC(C(=O)[O-])(F)F.CC1(C(CCC(C1)=O)C(=O)C=1SC(=CN1)C=1C=C(C=C(C1)C)[NH2+]C1=NC=CC(=N1)C(F)(F)F)C
reactant | Sodium borohydride | 0.498 mmol, 18.8 mg | [BH4-].[Na+]
solvent | methanol | 1.66 mL | CO | CH4O
product | 4-{hydroxy[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methyl}-3,3-dimethylcyclohexanol | OC(C1C(CC(CC1)O)(C)C)C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C | C24H27F3N4O2S
